US06821992B1
N-Benzyl-N′-(3-chloro-5-trifluoromethyl-2-pyridyl)methylthiourea
To a mixture of (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride (0.12 g) and benzylisothiocyanate (0.11 g) in dry tetrahydrofuran (10 ml) was added triethylamine (10 drops) and the mixture stirred at room temperature for 12 hours. The solvent was evaporated and ethyl acetate added. The mixture was washed with 2M hydrochloric acid and then with saturated sodium bicarbonate solution. The organic layer was separated and the solvent removed to give the title product. 1H N.M.R. δ(ppm) 4.7 (2H, broad s), 4.95 (2H, d), 6.9 (1H, broad s), 7.3-7.55 (6H, m), 7.95 (1H, s) and 8.58 (1H, s).

reactant | (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride | 0.12 g | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)CN
reactant | benzylisothiocyanate | 0.11 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
product | N-Benzyl-N′-(3-chloro-5-trifluoromethyl-2-pyridyl)methylthiourea | C(C1=CC=CC=C1)NC(=S)NCC1=NC=C(C=C1Cl)C(F)(F)F | C15H13ClF3N3S
